US07846659B2
3. Preparation of 1-(4,5- methylenedioxy-2-nitrophenyl)ethyl chloroformate (MeNPOC-Cl)
Phosgene (500 mL of 20% w/v in toluene from Fluka: 965 mmole; 4 eq.) was added slowly to a cold, stirring solution of 50 g (237 mmole; 1 eq.) of 1-(4,5-methylenedioxy-2-nitrophenyl)ethanol in 400 mL dry THF. The solution was stirred overnight at ambient temperature at which point TLC.(20% Et2O/hexane) indicated >95% conversion. The mixture was evaporated (an oil-less pump with downstream aqueous NaOH trap is recommended to remove the excess phosgene) to afford a viscous brown oil. Purification was effected by flash chromatography on a short (9×13 cm) column of silica gel eluted with 20% Et2O/hexane. Typically 55 g (85%) of the solid yellow MeNPOC-Cl is obtained by this procedure. The crude material has also been recrystallized in 2-3 crops from 1:1′ether/hexane. On this scale, ˜100 ml is used for the first crop, with a few percent THF added to aid dissolution, and then cooling overnight at −20° C. (this procedure has not been optimized). The product should be stored desiccated at −20° C.

reactant | Phosgene | 965 mmole, 500 mL, 4 eq. | C(=O)(Cl)Cl | CCl2O
reactant | 1-(4,5-methylenedioxy-2-nitrophenyl)ethanol | 237 mmole, 50 g, 1 eq. | C1OC2=CC(=C(C=C2O1)C(C)O)[N+](=O)[O-] | C9H9NO5
reactant | Et2O hexane | CCOCC.CCCCCC
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 1-(4,5- methylenedioxy-2-nitrophenyl)ethyl chloroformate | 55 g, 85% | ClC(=O)OC(C)C1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C10H8ClNO6
